US08053212B1
2-Amino-3-nitropyridine 1-oxide
To a solution of 2-amino-3-nitropyridine (5.0 g; 36 mmol) in acetone (250 mL) was added a solution of m-chloroperbenzoic acid (7.5 g; 100 mmol) in acetone (50 mL). The shiny orange solution was stirred at room temperature for 3 days. The resulting precipitate was dissolved again under heating and the solution poured onto a silica gel column. Column chromatography using acetone as eluant gave the title compound as an orange solid.

reactant | 2-amino-3-nitropyridine | 36 mmol, 5.0 g | NC1=NC=CC=C1[N+](=O)[O-] | C5H5N3O2
reactant | m-chloroperbenzoic acid | 100 mmol, 7.5 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | acetone | 250 mL | CC(=O)C | C3H6O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | 2-Amino-3-nitropyridine 1-oxide | NC1=[N+](C=CC=C1[N+](=O)[O-])[O-] | C5H5N3O3
